US07144906B2
Methyl 2-(8,9-epoxynonyloxy)-2-methylpropionate
Methyl 2-methyl-2-(8-nonenyloxy)propionate (40 g) was dissolved in 320 ml of methylene chloride, and 40.8 g of 70% 3-chloroperbenzoic acid was added with stirring under ice-cooling, and the mixture was stirred for 15 hours at room temperature. The reaction solution was filtrated to remove insolubles, and the filtrate was concentrated. The residue was dissolved in n-hexane and washed 4 times with aqueous 10% potassium carbonate solution, washed with water, dried over anhydrous magnesium sulfate and concentrated to give 43.2 g of the objective compound as colorless oil.

reactant | Methyl 2-methyl-2-(8-nonenyloxy)propionate | 40 g | CC(C(=O)OC)(C)OCCCCCCCC=C | C14H26O3
reactant | 3-chloroperbenzoic acid | 40.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 320 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(8,9-epoxynonyloxy)-2-methylpropionate | 43.2 g | O1C(CCCCCCCOC(C(=O)OC)(C)C)C1 | C14H26O4
